US08710163B2
4,4,5,5-Tetramethyl-2-(2-methyl-l-naphthyl)-1,3,2-dioxaborolane (2).
1,2-Dibromoethane (˜0.3 ml) was added to 6.10 g (250 mmol) magnesium turnings in 1000 cm3 of THF. This mixture was stirred for 10 min, and then 55.3 g (250 mmol) of 1-bromo-2-methylnaphthalene was added for 1 h by vigorous stirring at room temperature for 3.5 h. Thereafter, 46.5 g (250 mmol) of 2-isopropoxy-4,4,5,5-tetramethyl-1,3,2-dioxaborolane was added in one portion. The resulting mixture was stirred for 15 minutes and then was poured into 1000 cm3 of cold water. The product was extracted with 3×300 ml of ethyl acetate. The organic layer was separated, washed by water, brine, then dried over MgSO4, and, finally; evaporated to dryness. The resulting white solid was washed by 2×75 ml of pentane and dried in vacuum. Yield 47.3 g (70%). Anal. calc. for C17H21BO2: C, 76.14; H, 7.89. Found: C, 76.31; H, 8.02. 1H NMR (CDCl3): 8.12 (m, 1H, 8-H), 7.77 (m, 1H, 5-H), 7.75 (d, J=8.4 Hz, 1H, 4-H), 7.44 (m, 1H, 7-H), 7.38 (m, 1H, 6-H), 7.28 (d, J=8.4 Hz, 1H, 3-H), 2.63 (s, 3H, 2-Me), 1.48 (s, 12H, CMe2CMe2).

reactant | 1,2-Dibromoethane | ˜0.3 ml | BrCCBr | C2H4Br2
reactant | magnesium | 250 mmol, 6.10 g | [Mg] | Mg
reactant | 1-bromo-2-methylnaphthalene | 250 mmol, 55.3 g | BrC1=C(C=CC2=CC=CC=C12)C | C11H9Br
reactant | 2-isopropoxy-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 250 mmol, 46.5 g | C(C)(C)OB1OC(C(O1)(C)C)(C)C | C9H19BO3
solvent | THF | 1000 cm3 | C1CCOC1 | C4H8O
solvent | water | 1000 cm3 | O | H2O
product | 4,4,5,5-Tetramethyl-2-(2-methyl-l-naphthyl)-1,3,2-dioxaborolane | CC1(OB(OC1(C)C)C1=C(C=CC2=CC=CC=C12)C)C | C17H21BO2
